US08293913B2
25.1 3-(3-fluorophenylsulfonyl)-8-nitroquinoline
15 g of 3-iodo-8-nitroquinoline (50 mmol), 0.476 g CuJ (2.5 mmol) and 21.22 g K3PO4 (100 mmol) were suspended in 150 ml of ethylene glycol. 9.61 g 3-fluorobenzenethiol were added and the reaction mixture was stirred at 80° C. for 6 h followed by stirring for 14 h at room temperature. The reaction mixture was partitioned between 150 ml of dichloromethane and 150 ml of water, and after stirring for 15 min, the organic phase was separated. The aqueous layer was extracted one more time with dichloromethane, the combined organic layers were washed with water and stirred with 5 g charcoal for 15 min. The filtrate was added to a suspension of 54.1 g (87 mmol) monoperoxyphthalic acid magnesium salt hexahydrate in 300 ml of dichloromethane/methanol at 10 −25° C. within 30 min. After stirring for 16 h at room temperature, the reaction mixture was cooled and slowly 250 mL of an aqueous sodium pyrosulfite solution were added. The organic phase and the precipitate were separated and washed with 250 ml of aqueous sodium bicarbonate solution. After stirring for 15 min, the precipitate was filtered, washed with water and ether, and dried under vacuum to yield 11.7 g of the product.

reactant | 3-iodo-8-nitroquinoline | 50 mmol, 15 g | IC=1C=NC2=C(C=CC=C2C1)[N+](=O)[O-] | C9H5IN2O2
reactant | K3PO4 | 100 mmol, 21.22 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-fluorobenzenethiol | 9.61 g | FC=1C=C(C=CC1)S | C6H5FS
reactant | monoperoxyphthalic acid magnesium salt hexahydrate | 87 mmol, 54.1 g | O.O.O.O.O.O.[Mg+2].C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-]
reactant | sodium pyrosulfite | 250 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethylene glycol | 150 ml | C(CO)O | C2H6O2
solvent | dichloromethane methanol | 300 ml | ClCCl.CO
product | 3-(3-fluorophenylsulfonyl)-8-nitroquinoline | 11.7 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)[N+](=O)[O-] | C15H9FN2O4S
